US07851463B2
135.1 4-Bromo-2-methoxy-1-nitro-benzene
To a solution of 4-bromo-2-fluoro-1-nitro-benzene (2.0 g, 9.09 mmol) in methanol (50 ml) was added sodium methanolate (30% in methanol) (1.64 g, 9.09 mmol). The reaction mixture was stirred at room temperature overnight. The reaction mixture was concentrated and the residue was dissolved in water (30 ml) and extracted twice with ethyl acetate. The combined organic phases were washed with water. The organic phase was separated, dried over magnesium sulfate, filtered, and evaporated to dryness to yield a crystalline solid (2.1 g, 99%).

reactant | 4-bromo-2-fluoro-1-nitro-benzene | 9.09 mmol, 2.0 g | BrC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | sodium methanolate | 9.09 mmol, 1.64 g | C[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 4-Bromo-2-methoxy-1-nitro-benzene | 2.1 g, 99% | BrC1=CC(=C(C=C1)[N+](=O)[O-])OC | C7H6BrNO3
